US05811448
4-(5-Chloro-2-methoxybenzamidomethyl)-6-(n-butylaminothiocarbonylaminosulfonyl)-7-methoxychroman is prepared analogously to Example 4 from 4-(5-chloro-2-methoxybenzamidomethyl)-6-sulfamoyl-7-methoxychroman and n-butyl isothiocyanate. Melting point: 167° C.

reactant | 4-(5-chloro-2-methoxybenzamidomethyl)-6-sulfamoyl-7-methoxychroman | ClC=1C=CC(=C(C(=O)NCC2CCOC3=CC(=C(C=C23)S(N)(=O)=O)OC)C1)OC | C19H21ClN2O6S
reactant | n-butyl isothiocyanate | C(CCC)N=C=S | C5H9NS
product | 4-(5-Chloro-2-methoxybenzamidomethyl)-6-(n-butylaminothiocarbonylaminosulfonyl)-7-methoxychroman | ClC=1C=CC(=C(C(=O)NCC2CCOC3=CC(=C(C=C23)S(=O)(=O)NC(=S)NCCCC)OC)C1)OC | C24H30ClN3O6S2
